US04310398
(B1) Tert.-butyl N-vinylcarbamate
69 parts of vinyl isocyanate and 70 parts of ethyl acetate are introduced into a reaction vessel equipped with a high-efficiency cooler (employing cooling brine), stirrer, thermometer and feed vessel. 74 parts of tert.-butanol, 73 parts of ethyl acetate and 0.01% of dibutyl-tin dilaurate are added in the course of 1 hour, at 40° C. The reaction is then allowed to continue for 10 hours at 40° C. A light yellow clear solution results. Blocked isocyanate content: 14.7%.

reactant | vinyl isocyanate | C(=C)N=C=O | C3H3NO
reactant | dibutyl-tin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | isocyanate | [N-]=C=O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert.-butanol | C(C)(C)(C)O | C4H10O
product | Tert.-butyl N-vinylcarbamate | C(=C)NC(OC(C)(C)C)=O | C7H13NO2
